US04476307
1-(4-Fluorophenyl)-5-fluoroisatin
Oxalyl chloride (9.62 ml, 0.11 mole) was dissolved in 45 ml CH2Cl2. A solution of di-(4-fluorophenyl)-amine (19.7 g, 0.096 mole) in 145 ml CH2Cl2 was added over 15 minutes; the temperature rose from 23° to 28°. After stirring 1 hour, AlCl3 (40.8 g) was added portionwise over 15 minutes; the temperature rose from 20° to 30°, and was kept less than 30° by cooling. After stirring for 10 minutes, the reaction mixture was added to 250 ml ethyl acetate and 500 ml ice and water (the temperature rose to 30° C.). The aqueous layer was washed 2×250 ml ethyl acetate. The organic layers were combined, back-washed 1×400 ml H2O, dried over MgSO4, evaporated to solids and triturated with 100 ml 1:1 ether:hexane to recover title product, 19.9 g, m.p. 180°-190°, tlc Rf 0.55 (1:1 ether:hexane).

reactant | Oxalyl chloride | 0.11 mole, 9.62 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | di-(4-fluorophenyl)-amine | 0.096 mole, 19.7 g | FC1=CC=C(C=C1)NC1=CC=C(C=C1)F | C12H9F2N
reactant | AlCl3 | 40.8 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
solvent | CH2Cl2 | 45 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 145 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 1-(4-Fluorophenyl)-5-fluoroisatin | FC1=CC=C(C=C1)N1C(=O)C(=O)C2=CC(=CC=C12)F | C14H7F2NO2
